US06451887B1
4-Methoxy-α-methylstyrene
To a 1000 mL three-necked flask equipped with a mechanical stirrer, methyl magnesium bromide/diethyl ether solution (200 mL, 3.0 mol) is added. A solution of 85.3 g of 4′-methoxyacetophenone dissolved in 80 mL of anhydrous diethyl ether is charged to the Grignard reagent over 90 minutes at ambient temperature. Diethyl ether (200 mL) and 250 mL of 3N hydrochloric acid are added slowly to the reaction mixture. The solution is stirred for another 30 minutes. The aqueous layer is separated and washed twice with 100 mL of diethyl ether. The ethereal layers are combined and vacuum distilled. The desired product is obtained in a yield of 91.7 g as a yellow oil whose structure is verified by 1Hnmr and mass spectroscopy.

reactant | methyl magnesium bromide diethyl ether | 3.0 mol, 200 mL | C[Mg]Br.C(C)OCC
reactant | 4′-methoxyacetophenone | 85.3 g | COC1=CC=C(C=C1)C(C)=O | C9H10O2
reactant | hydrochloric acid | 3N, 250 mL | Cl | ClH
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | Diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 4-Methoxy-α-methylstyrene | COC1=CC=C(C(=C)C)C=C1 | C10H12O
